US09029539B2
b) 1,1-Bis(6-bromo-2-pyridyl)-1-fluoroethane
117.3 ml (888 mmol) of DAST were added dropwise over the course of 30 min. to a solution, cooled to 10° C., of 105.9 g (296 mmol) of 1,1-bis(6-bromo-2-pyridyl)ethan-1-ol in 1500 ml of chloroform at such a rate that the temperature did not exceed 20° C. The reaction mixture was stirred at 20° C. for 1 h and then hydrolysed dropwise with 500 ml of ice-water (care: highly exothermic reaction) with ice cooling and subsequently with 1000 ml of aqueous 3M NaOH. The organic phase was separated off, the aqueous phase was extracted twice with 100 ml of chloroform, and the combined organic phases were washed once with 500 ml of water and dried over calcium chloride. After the desiccant had been filtered off, the brown organic phase was concentrated to 200 ml and filtered through a silica-gel column. The yellow solution obtained in this way was evaporated to dryness, and the yellow, viscous oil remaining was recrystallised from 200 ml of n-heptane, giving 78.6 g (218 mmol) of the product, corresponding to a yield of 73.7%, in the form of colourless crystal needles—purity according to 1H-NMR>99.0%.

reactant | DAST | 888 mmol, 117.3 ml | CCN(CC)S(F)(F)F | C4H10F3NS
reactant | 1,1-bis(6-bromo-2-pyridyl)ethan-1-ol | 296 mmol, 105.9 g | BrC1=CC=CC(=N1)C(C)(O)C1=NC(=CC=C1)Br | C12H10Br2N2O
reactant | NaOH | 3M | [OH-].[Na+]
solvent | chloroform | 1500 ml | C(Cl)(Cl)Cl | CHCl3
product | 1,1-Bis(6-bromo-2-pyridyl)-1-fluoroethane | 218 mmol, 78.6 g, yield of 73.7% | BrC1=CC=CC(=N1)C(C)(F)C1=NC(=CC=C1)Br | C12H9Br2FN2
